US08106188B2
4-Amino-2-methyl-10H-thieno[2,3-b][1,5]benzodiazepine, hydrochloride (100 g) was refluxed in a mixture of N-methylpiperazine (349 mL), dimethylsulphoxide (465 mL) and toluene (465 mL) under a nitrogen atmosphere for 20 hours. The mixture was cooled to 50° C., and water (465 mL) was added at 50-55° C. in 20 min. Then the reaction mass was cooled to 5° C. and stirred for 2 h. The product was filtered and washed with water (100 mL, 20° C.). Dried the product at 60-70° C. under reduced pressure to give crude 2-Methyl-4-(4-methyl-1-piperazinyl)-10H-thieno[2,3-b][1,5]benzodiazepine or Olanzapine.

reactant | 4-Amino-2-methyl-10H-thieno[2,3-b][1,5]benzodiazepine, hydrochloride | 100 g | Cl.NC=1C2=C(NC3=C(N1)C=CC=C3)SC(=C2)C
reactant | dimethylsulphoxide | 465 mL | CS(=O)C | C2H6OS
reactant | toluene | 465 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 465 mL | O | H2O
solvent | N-methylpiperazine | 349 mL | CN1CCNCC1 | C5H12N2
product | Olanzapine | CC1=CC2=C(S1)NC=3C=CC=CC3N=C2N4CCN(CC4)C | C17H20N4S
